US06916822B2
(c) 4-[(2-Amino-6-methylphenyl)amino]-1-ethoxycarbonylpiperidine
1-Ethoxycarbonyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine (38 mg) was dissolved in tetrahydrofuran (0.4 ml), added with a suspension of Raney nickel in ethanol (0.2 ml) and stirred at 40° C. for 2 hours under hydrogen gas atmosphere. After insoluble matters were removed, the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=2:1) to obtain (28.6 mg) of the title compound. Yield: 83%.

reactant | 1-Ethoxycarbonyl-4-[(2-methyl-6-nitrophenyl)amino]piperidine | 38 mg | C(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C15H21N3O4
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | 4-[(2-Amino-6-methylphenyl)amino]-1-ethoxycarbonylpiperidine | 28.6 mg, Yield: 83% | NC1=C(C(=CC=C1)C)NC1CCN(CC1)C(=O)OCC | C15H23N3O2
